US07943622B2
Step 3. Synthesis of (2-chlorothiazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-chlorothiazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate (36 mg, 0.083 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure, yielding 33.8 mg (99%) of the desired product as a white solid. LC-MS: RT=3.12 min, (M+H)+=338.9.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-chlorothiazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate | 0.083 mmol, 36 mg | ClC=1SC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1 | C19H23ClN4O4S
solvent | MeOH | 1 mL | CO | CH4O
product | (2-chlorothiazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 33.8 mg, 99% | Cl.Cl.ClC=1SC=C(N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C14H15ClN4O2S.2ClH/c15-14-18-12(9-22-14)13(20)19-5-4-17-6-10(19)8-21-11-2-1-3-16-7-11;;/h1-3,7,9-10,17H,4-6,8H2;2*1H
